US07696215B2
Using an analogous procedure to that described paragraph (B) in the portion of Example 1 which is concerned with the preparation of starting material N-(2-methoxyethyl)piperazine was reacted with methyl 3-(6-bromo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate to give methyl 4-methyl-3-[6-(4-(2-methoxyethyl)piperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoate; NMR Spectrum: (DMSOd6) 2.18 (s, 3H), 2.55 (t, 2H), 2.60 (m, 4H), 3.25 (s, 3H), 3.27 (m, 4H), 3.50 (t, 2H), 3.88 (s, 3H), 7.47 (s, 1H), 7.62 (m, 3H), 7.97 (s, 1H), 8.01 (m, 1H), 8.09 (s, 1H); Mass Spectrum: M+H+ 437.

reactant | N-(2-methoxyethyl)piperazine | COCCN1CCNCC1 | C7H16N2O
reactant | methyl 3-(6-bromo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate | BrC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C17H13BrN2O3
product | methyl 4-methyl-3-[6-(4-(2-methoxyethyl)piperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoate | CC1=C(C=C(C(=O)OC)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)CCOC | C24H28N4O4
